US07622583B2
To a solution of n-BuLi in hexane (0.69 mL, 1.1 mmol, 1.6 M solution in hexane) under N2 atm at −20° C. was added a solution of 2,2,6,6-tetramethyl piperidine (TMP, 187 μL) in THF (1 mL). The mixture cooled to −50° C. and a solution of 3-chlorobenzoic acid (78.3 mg, 0.5 mmol) in THF (0.5 mL) was added. The resulting reaction mixture was stirred at −50° C. for 4 h and treated slowly with 4-chloro-N-(5-chloro-2-formyl-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (884 mg, 2.0 mmol) in THF (1 mL), warmed to room temperature and stirred for 2 h. The reaction mixture was slowly poured in ice cold water (10 mL), and ether was added. The bilayer was separated and the aqueous portion was washed with diethyl ether (2×25 mL) and separated. The aqueous layer was acidified with 4 N HCl solutions to pH 2 and extracted with diethyl ether (2×25 mL). The combined organic extracts were dried (Na2SO4), filtered and evaporated. The residual solid was dissolved in CH2Cl2 (5 mL), treated with p-toluenesulfonic acid monohydrate (100 mg), and stirred at room temperature for 2 h. The reaction mixture was concentrated and purified by flash chromatography (25% EtOAc in hexanes) to obtain 4-chloro-N-[5-chloro-2-(7-chloro-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (77 mg) in 26.6% yield. MS m/z: 581 (M+H).

reactant | n-BuLi | [Li]CCCC
reactant | hexane | 1.1 mmol, 1.6 M, 0.69 mL | CCCCCC | C6H14
reactant | 2,2,6,6-tetramethyl piperidine | 187 μL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 3-chlorobenzoic acid | 0.5 mmol, 78.3 mg | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | 4-chloro-N-(5-chloro-2-formyl-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 2.0 mmol, 884 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C=O)C(F)(F)F | C15H11Cl2F3N2O4S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-chloro-N-[5-chloro-2-(7-chloro-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 77 mg, 26.6% yield | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C1OC(C2=CC=CC(=C12)Cl)=O)C(F)(F)F | C22H14Cl3F3N2O5S
